US04169855
N-Methyl-1-methylthio-2-nitroethanamine
A solution of methylamine in ethanol/ethylenedichloride (112.5 ml of 33% ethanolic methylamine in 0.8 liters of ethylene dichloride; 0.94 mole) was added over 51/2 hr at 70° to a stirred solution of 1,1-bismethylthio-2-nitroethene (99.0 g, 0.6 mole) in ethylene dichloride (1.5 litres). The solution was heated to boiling and 0.7 liters of solvent were distilled off. The cooled solution was washed with 2 N hydrochloric acid (0.25 liters), then with brine (0.25 liters). The solvent was removed and the residue crystallised from isopropyl acetate (0.5 liters), treating the hot solution with charcoal (10.0 g). The product (35.0 g) formed yellow prisms, m.p. 114°.

reactant | methylamine | CN | CH5N
reactant | ethanol ethylenedichloride | 0.94 mole, 112.5 ml | C(C)O.C(CCl)Cl
reactant | 1,1-bismethylthio-2-nitroethene | 0.6 mole, 99.0 g | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
solvent | ethylene dichloride | 1.5 litres | C(CCl)Cl | C2H4Cl2
product | N-Methyl-1-methylthio-2-nitroethanamine | 35.0 g | CNC(C[N+](=O)[O-])SC | C4H10N2O2S
